US07101868B2
Step C: Preparation of N-{3-[3-(dimethylamino)propyl]-4-fluorophenyl}methylamine
To [3-(3-Dimethylamino-propyl)-4-fluoro-benzyl]-Boc-amine (3.0 g, 10 mmol) in 100 mL of CH2Cl2 was slowly added TFA (10 mL). The resulting solution was stirred for 1 h, then concentrated. The residue was diluted with CH2Cl2 and aq. NaHCO3 solution. The organic layer was dried over Na2SO4 and concentrated to give the title compound. MS (ES+): 211 (M+H)+; (ES−): 209 (M−H). Calc'd C12H19FN2-210.29.

reactant | [3-(3-Dimethylamino-propyl)-4-fluoro-benzyl]-Boc-amine | 10 mmol, 3.0 g | CN(CCCC=1C=C(CNC(=O)OC(C)(C)C)C=CC1F)C | C17H27FN2O2
reactant | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | N-{3-[3-(dimethylamino)propyl]-4-fluorophenyl}methylamine | CN(CCCC=1C=C(C=CC1F)CN)C | C12H19FN2
